US05661150
[Referential Example 7]3-(2-(4-(3-chloro-2-methylphenyl)-1-piperazinyl)ethyl)-5,6-dimethoxy-1-(3,4-dimethoxybenzyl)-1H-indazole (compound
1-((5,6-Dimethoxy-1-(3,4-dimethoxybenzyl)-1H-indazol-3-yl)acetyl)-4-(3-chloro-2-methylphenyl)piperazine (60.5 g) was suspended in tetrahydrofuran (1000 ml). Then 1.0 mol-borane tetrahydrofuran complex tetrahydrofuran solution (500 ml) was added thereto and the mixture was heated under reflux for 2 hours. The reaction mixture was cooled to room temperature and water (30 ml) was added to thereby decompose the excessive reagent. After evaporation of the tetrahydrofuran under reduced pressure, conc. hydrochloric acid (300 ml) was added and the mixture was stirred at 50° C. for 1 hour. The aqueous layer was returned to room temperature and made alkaline with potassium carbonate. Then it was extracted with chloroform (3000 ml) and the organic layer was dried over sodium sulfate, filtered and evaporated under reduced pressure. The residue thus obtained was purified by using a silica gel column (chloroform/ethanol=40/1). Thus a colorless solid (50.0 g) was obtained. This product was recrystallized from ethanol to give 46.3 g of colorless prism crystals (m.p.: 148°-150° C.)

reactant | 1-((5,6-Dimethoxy-1-(3,4-dimethoxybenzyl)-1H-indazol-3-yl)acetyl)-4-(3-chloro-2-methylphenyl)piperazine | 60.5 g | COC=1C=C2C(=NN(C2=CC1OC)CC1=CC(=C(C=C1)OC)OC)CC(=O)N1CCN(CC1)C1=C(C(=CC=C1)Cl)C | C31H35ClN4O5
reactant | borane tetrahydrofuran | 500 ml | O1CCCC1.B
reactant | water | 30 ml | O | H2O
solvent | tetrahydrofuran | 1000 ml | O1CCCC1 | C4H8O
product | 3-(2-(4-(3-chloro-2-methylphenyl)-1-piperazinyl)ethyl)-5,6-dimethoxy-1-(3,4-dimethoxybenzyl)-1H-indazole | 50.0 g | ClC=1C(=C(C=CC1)N1CCN(CC1)CCC1=NN(C2=CC(=C(C=C12)OC)OC)CC1=CC(=C(C=C1)OC)OC)C | C31H37ClN4O4
